US08748452B2
To a solution of 1-ethoxycarbonylmethylpyridinium bromide (4.8 g) in N, N-dimethylformamide (50 mL) were added toluene-4-sulfonic acid 2, 2-difluorovinyl ester (4.6 g), potassium carbonate (4.0 g) and triethylamine (3.0 g), and the mixture was stirred at 70° C. overnight. After cooling to room temperature, to the reaction mixture was added water, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give 2-fluoroindolizine-3-carboxylic acid ethyl ester (1.9 g). To a solution of the obtained. compound (1.9 g) in dichloromethane (30 mL) was added N-bromosuccinimide (1.8 g), and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added 1 mol/L sodium thiosulfate aqueous solution, and the resulting mixture was extracted with dichloromethane. The organic layer was washed with water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give 1-bromo-2-fluoroindolizine-3-carboxylic acid ethyl ester (1.3 g). To a mixed solution of the obtained compound (1.3 g) in tetrahydrofuran (20 mL), ethanol (7 mL) and water (7 mL) was added lithium hydroxide monohydrate (0.29 g), and the mixture was stirred at room temperature overnight. To the reaction mixture were added 1 mol/L hydrochloric acid and water. The precipitated solid was collected by filtration, washed with water and n-hexane, and dried under reduced pressure at 50° C. to give 1-bromo-2-fluoroindolizine-3-carboxylic acid (0.76 g). To a suspension of the obtained compound (0.56 g) and quinoline (5 mL) was added copper (0.03 g), and the mixture was stirred at 220° C. for 30 minutes. After cooling to room temperature, to the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with 1 mol/L hydrochloric acid, water and brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate) to give the title compound (0.47 g).

reactant | 1-ethoxycarbonylmethylpyridinium bromide | 4.8 g | [Br-].C(C)OC(=O)C[N+]1=CC=CC=C1
reactant | toluene-4-sulfonic acid 2, 2-difluorovinyl ester | 4.6 g | FC(=COS(=O)(=O)C1=CC=C(C=C1)C)F | C9H8F2O3S
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
solvent | N, N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-fluoroindolizine-3-carboxylic acid ethyl ester | 1.9 g | C(C)OC(=O)C1=C(C=C2C=CC=CN12)F | C11H10FNO2
